US07517873B2
A solution of 0.05 g (0.00016 mole) of (rac)-2-chloro-9-cyclohexyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-19), 0.034 g, 0.00016 mole) of 2-pyridin-4-yl-benzooxazol-5-ylamine, 0.047 g, (0.00024 mole) of p-toluenesulfonic acid monohydrate and 4 mL of 2-propanol was heated at 180 degree for 2 hours in a microwave reactor. The reaction mixture was concentrated. The residue was diluted with dichloromethane and washed twice with saturated sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane. The combined organic phases were washed with brine, dried anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5) to give 0.047 g of (rac)-9-cyclohexyl-5,7-dimethyl-2-(2-pyridin-4-yl-benzooxazol-5-ylamino)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diaze-pin-6-one (I-26). HRMS (ES+) m/z Calcd for C27H29N7O2+H [(M+H)+]: 484.2456. Found: 484.2456.

reactant | (rac)-2-chloro-9-cyclohexyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00016 mole, 0.05 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCCCC2)N1 | C15H21ClN4O
reactant | 2-pyridin-4-yl-benzooxazol-5-ylamine | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C12H9N3O
reactant | p-toluenesulfonic acid monohydrate | 0.00024 mole | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
product | (rac)-9-cyclohexyl-5,7-dimethyl-2-(2-pyridin-4-yl-benzooxazol-5-ylamino)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diaze-pin-6-one | 0.047 g | C1(CCCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC=2C=CC1=C(N=C(O1)C1=CC=NC=C1)C2 | C27H29N7O2
